US06369209B1
N6-Benzoyl-5′-O-(dimethoxytrityl)-2′-O-(trans-2-methoxycyclohexyl)adenosine
A solution of N6-benzoyl-2′-O-(trans-2-methoxycyclohexyl)adenosine (0.285 mol) in pyridine (100 mL) is evaporated under reduced pressure to an oil. The residue is redissolved in dry pyridine (300 mL) and 4,4′-dimethoxytriphenylmethyl chloride (DMT-Cl, 10.9 g, 95%, 0.31 mol) added. The mixture is stirred at 25° C. for 16 h and then poured onto a solution of sodium bicarbonate (20 g) in ice water (500 mL). The product is extracted with ethyl acetate (2×150 mL). The organic layer is washed with brine (50 mL), dried over sodium sulfate (powdered) and evaporated under reduced pressure (below 40° C.). The residue is chromatographed on silica gel (400 g, ethyl acetate-hexane 1:1. Selected fractions were combined, concentrated under reduced pressure and dried at 25° C./0.2 mmHg to give the title compound.

reactant | N6-benzoyl-2′-O-(trans-2-methoxycyclohexyl)adenosine | 0.285 mol | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O[C@H]4[C@@H](CCCC4)OC)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C24H29N5O6
reactant | 4,4′-dimethoxytriphenylmethyl chloride | 0.31 mol, 10.9 g | COC1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=C(C=C3)OC)Cl | C21H19ClO2
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | N6-Benzoyl-5′-O-(dimethoxytrityl)-2′-O-(trans-2-methoxycyclohexyl)adenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O[C@H]4[C@@H](CCCC4)OC)[C@H](O)[C@@H](COC(C4=C(C(=CC=C4)OC)OC)(C4=CC=CC=C4)C4=CC=CC=C4)O3)C2N=CN1 | C45H47N5O8
